US05610144
The operation is carried out in a fashion similar to that described in Example 41, but starting from 4.0 g of 2-trimethylsilylethyl (2R,4R)-3-{3-{2-[4-tert-butoxycarbonyl-2-(3-hydroxyphenyl)-3-thiazolidinyl]-2-oxoethyl}ureido}benzoate and 11.8 cm3 of 1M tetrabutylammonium fluoride solution. The crude product is purified by chromatography on silica [eluent: ethyl acetate]. The fractions containing the expected product are combined and concentrated to dryness under reduced pressure at 40° C. The solid residue is dissolved in 8.0 cm3 of a 0.5N aqueous sodium hydroxide solution. The solution is filtered and acidified with 4.1 cm3 of a 1N aqueous hydrochloric acid solution. The insoluble product is separated by filtration, washed with 2 times 5 cm3 of water and dried in air. 0.65 g of (2R,4R)-3-{3-{2-[4-tert-butoxycarbonyl-2-(3-hydroxyphenyl)-3-thiazolidinyl]-2-oxoethyl}ureido}-benzoic acid, melting at 150° C., is thus obtained. ([α]D20 =+62°±2° (C=0.28%; DMF)) [proton NMR (200 MHz, DMSO D6, δ in ppm), 2 rotamers at room temperature, peak coalescence at 120° C., characteristic chemical shifts at 120° C.: 6.8 (bd, 1H, O--C6H4 --C in position 4; 7.0 to 7.6 (m, 6H, aromatic); 8.0 (bs, 1H, N--C6H4 -- in position 2). Infrared spectrum (KBr), characteristic bands in cm-1 : 3380, 2975, 2930, 2625, 1700, 1650, 1590, 1560, 1490, 1370, 1235, 1150, 785, 760, 690, 680].

reactant | 2-trimethylsilylethyl (2R,4R)-3-{3-{2-[4-tert-butoxycarbonyl-2-(3-hydroxyphenyl)-3-thiazolidinyl]-2-oxoethyl}ureido}benzoate | 4.0 g | C(C)(C)(C)OC(=O)[C@H]1N([C@H](SC1)C1=CC(=CC=C1)O)C(CNC(NC=1C=C(C(=O)OCC[Si](C)(C)C)C=CC1)=O)=O | C29H39N3O7SSi
reactant | tetrabutylammonium fluoride | 1M, 11.8 cm3 | [F-].C(CCC)[N+](CCCC)(CCCC)CCCC
product | (2R,4R)-3-{3-{2-[4-tert-butoxycarbonyl-2-(3-hydroxyphenyl)-3-thiazolidinyl]-2-oxoethyl}ureido}-benzoic acid | 0.65 g | C(C)(C)(C)OC(=O)[C@H]1N([C@H](SC1)C1=CC(=CC=C1)O)C(CNC(NC=1C=C(C(=O)O)C=CC1)=O)=O | C24H27N3O7S
